US07919519B2
To a solution of (4-(5-benzyl-1H-benzo[d]imidazol-2-yl)-3-fluorophenyl)methanol (0.055 g, 0.17 mmol) and triethylamine (0.12 mL, 0.83 mmol) in 1.5 mL 1:1 DCM/DMSO under nitrogen at 0° C. was added a solution of SO3*py (0.13 g, 0.83 mmol) in 0.75 mL DMSO. The reaction was allowed to stir for 2 h and was then diluted with EtOAc and water. The organic layer was washed 1× water, 1× brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by ISCO, 12 g, 0-40% EtOAc/hexanes, to give 4-(5-benzyl-1H-benzo[d]imidazol-2-yl)-3-fluorobenzaldehyde as a light yellow oil. MS (ESI) m/z: Calculated: 330.1; Observed: 331.0 (M++1).

reactant | (4-(5-benzyl-1H-benzo[d]imidazol-2-yl)-3-fluorophenyl)methanol | 0.17 mmol, 0.055 g | C(C1=CC=CC=C1)C1=CC2=C(NC(=N2)C2=C(C=C(C=C2)CO)F)C=C1 | C21H17FN2O
reactant | triethylamine | 0.83 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | DCM DMSO | C(Cl)Cl.CS(=O)C
solvent | DMSO | 0.75 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-(5-benzyl-1H-benzo[d]imidazol-2-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)C1=CC2=C(NC(=N2)C2=C(C=C(C=O)C=C2)F)C=C1 | C21H15FN2O
